US07268253B2
27 ml (72.9 mmol) of n-butyllithium (2.7 M in heptane) are added dropwise at 0° C. to a solution of 10.9 ml of diisopropylamine (77.5 mmol) in 60 ml of THF, and the mixture is stirred at 0° C. for 30 min. Within 10 min, 5 g (34.7 mmol) of 2-ethylhexanoic acid are added dropwise at 0° C. and the reaction mixture is heated at 50° C. for 1.5 h. The clear solution is cooled to −20° C. and admixed with 3.1 g (103 mmol) of paraformaldehyde. After 10 min at −20° C., the mixture is stirred at RT for 2 h. The mixture is admixed with saturated aqueous solution of ammonium chloride and adjusted to pH=1-2 with 6N HCl. The organic phase is removed, the aqueous phase is re-extracted once with MTBE and the combined organic phases are concentrated on a rotary evaporator. The crude product (85% yield (GC)) can be purified further by distillation (b.p.: 121° C., 0.2 mbar). Alternatively, it is also possible to crystallize the sodium salt of the product from aqueous solution in pure form. The pure product of the free 2-ethyl-2-hydroxymethylhexanoic acid, which is typically obtained as a viscous oil, crystallizes slowly at RT (melting point: 45-46° C.). Alternatively, the product can also be crystallized from a suitable solvent, for example pentane, hexane, heptane or petroleum ether.

reactant | n-butyllithium | 72.9 mmol, 2.7 M, 27 ml | C(CCC)[Li]
reactant | diisopropylamine | 77.5 mmol, 10.9 ml | C(C)(C)NC(C)C | C6H15N
reactant | 2-ethylhexanoic acid | 34.7 mmol, 5 g | C(C)C(C(=O)O)CCCC | C8H16O2
reactant | paraformaldehyde | 103 mmol, 3.1 g | C=O | CH2O
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | HCl | 6N | Cl | ClH
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 2-ethyl-2-hydroxymethylhexanoic acid | C(C)C(C(=O)O)(CCCC)CO | C9H18O3
